US05077409
4-(Tetradecyloxy)-N-[3-(2-thiazolylmethyl)phenyl]benzeneacetamide monohydrochloride
To a tetrahydrofuran:ether solution of 4-(tetradecyloxy)-N-[3-(2-thiazolylmethyl)phenyl]benzeneacetamide is added ether saturated with hydrogen chloride. The resulting solid is collected by centrifugation and dried in vacuum to give 0.18 g of the desired product as a tan solid, m.p. 155°-158° C.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 4-(tetradecyloxy)-N-[3-(2-thiazolylmethyl)phenyl]benzeneacetamide | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)NC1=CC(=CC=C1)CC=1SC=CN1 | C32H44N2O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 4-(Tetradecyloxy)-N-[3-(2-thiazolylmethyl)phenyl]benzeneacetamide monohydrochloride | 0.18 g | Cl.C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)NC1=CC(=CC=C1)CC=1SC=CN1 | InChI=1S/C32H44N2O2S.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-22-36-30-19-17-27(18-20-30)25-31(35)34-29-16-14-15-28(24-29)26-32-33-21-23-37-32;/h14-21,23-24H,2-13,22,25-26H2,1H3,(H,34,35);1H
